US06002008
4-(3-Bromophenylamino)-6-dimethylaminoquinoline-3-carbonitrile Hydrochloride
Prepared from 0.400 g of 4-chloro-6-dimethylaminoquinoline-3-carbonitrile and 3-bromoaniline in the same manner as Example 377. The crude product was boiled twice with EtOAc and dried in vacuo (50° C.). The yield of 4(3-bromophenylamino)-6-dimethylaminoquinoline-3-carbonitrile hydrochloride was 0.621 g as a brown powder: mass spectrum (electrospray, m/e) M+H 366, 368.9.

reactant | 4-chloro-6-dimethylaminoquinoline-3-carbonitrile | 0.400 g | ClC1=C(C=NC2=CC=C(C=C12)N(C)C)C#N | C12H10ClN3
reactant | 3-bromoaniline | BrC=1C=C(N)C=CC1 | C6H6BrN
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(3-Bromophenylamino)-6-dimethylaminoquinoline-3-carbonitrile Hydrochloride | Cl.BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)N(C)C)C#N | InChI=1S/C18H15BrN4.ClH/c1-23(2)15-6-7-17-16(9-15)18(12(10-20)11-21-17)22-14-5-3-4-13(19)8-14;/h3-9,11H,1-2H3,(H,21,22);1H
